*TB_DIFFAMP_1_AC - Open-Loop AC Analysis
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/diffamp_1_lpe.spi
#else
.include ../../../work/xsch/diffamp_1.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD = {vdda}
.param VCM = 0.6

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  dc {AVDD}

VIP  VIP  VSS  dc {VCM}
VIN  VIN  VSS  dc {VCM} AC 1

VPWR  PWRUP_1V8  VSS  dc {AVDD}
VPWRN  PWRUP_N_1V8  VSS  dc 0

* Output load capacitor
CL   VOUT  VSS  0.25f

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=16
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0
op
ac dec 50 1 10G

let vout_db   = db(v(vout))
let vout_phase = 180/pi * cph(v(vout))
let vout_voltage = v(vout)

meas ac dc_gain      find vout_db    at=10
meas ac my_ugbw      when vout_voltage=1 fall=1
meas ac ph_at_ugbw   find vout_phase at=my_ugbw
let my_pm = 180 + ph_at_ugbw

write {cicname}.raw
quit

.endc

.end
